US05190953
4-Amino-N-(1-azabicyclo[3.3.1]non-5-ylmethyl)-5-chloro-2-(2-methoxyethoxy)benzamide
A solution of 4-amino-5-chloro-2-(2-methoxyethoxy)benzoic acid (2.09 g, 8.5 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.46 g, 9.0 mmol), stirred for one hour, degassed under a stream of nitrogen over 10 minutes, and cooled (0° C.). A solution of 1-azabicyclo[3.3.1]nonane-5-methanamine (1.36 g, 8.8 mmol) in tetrahydrofuran (5 mL) was added dropwise, and stirring was continued at room temperature for 18 hours. The solution was concentrated in vacuo and the residue was taken up in methylene chloride (100 mL) and washed with saturated sodium carbonate (50 mL). The organic solution was dried (Na2SO4), concentrated in vacuo, and passed through a short column of alumina (eluted with 5% methanol/methylene chloride). The filtrate was concentrated in vacuo and, at this point, appeared to be contaminated with some highly insoluble impurity. The residue was taken up in tetrahydrofuran and filtered, and the filtrate was concentrated in vacuo, triturated from cold ether, and recrystallized from acetonitrile (2 crops) to afford 1.59 g (49%) of colorless crystals; mp 154.0°-155.5° C.

reactant | 4-amino-5-chloro-2-(2-methoxyethoxy)benzoic acid | 8.5 mmol, 2.09 g | NC1=CC(=C(C(=O)O)C=C1Cl)OCCOC | C10H12ClNO4
reactant | 1,1'-carbonyldiimidazole | 9.0 mmol, 1.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-azabicyclo[3.3.1]nonane-5-methanamine | 8.8 mmol, 1.36 g | N12CCCC(CCC1)(C2)CN | C9H18N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-Amino-N-(1-azabicyclo[3.3.1]non-5-ylmethyl)-5-chloro-2-(2-methoxyethoxy)benzamide | 1.59 g, 49% | NC1=CC(=C(C(=O)NCC23CCCN(CCC2)C3)C=C1Cl)OCCOC | C19H28ClN3O3
